US09102669B2
In a 100 mL flask was placed 6-fluoro-1-(piperidin-4-yl)indoline as its corresponding HCl salt, prepared as in STEP 2 above (7.7 g, 30 mmol, 1 equiv) and 3,6-dichloropyridazine (4.69 g, 31.5 mmol, 1.05 equiv). DMSO (40 mL) and Et3N (12.54 mL, 90 mmol, 3 equiv) were added sequentially. The resulting mixture was heated at 80° C. for 7 h. The resulting mixture was then poured into vigorously stirred H2O (800 mL) and stirred for 1 h. The resulting solid was filtered and washed with H2O (30 mL×2), 50% Et2O/hexane (30 mL×2), and the dried to yield 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline as a solid.

reactant | 6-fluoro-1-(piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCNCC1 | C13H17FN2
reactant | HCl | Cl | ClH
reactant | 3,6-dichloropyridazine | 31.5 mmol, 4.69 g, 1.05 equiv | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | Et3N | 90 mmol, 12.54 mL, 3 equiv | CCN(CC)CC | C6H15N
solvent | H2O | 800 mL | O | H2O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
